Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
double vision
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ y/o R-handed man w/ HTN, hyperlipidemia, 
prediabetes, and factor V Leiden; presented for acute painless 
binocular horizontal diplopia.
Presented to ED. Evaluated by Neurology. Found to have signs of 
L CN VI palsy; remainder of exam unremarkable. Admitted due to 
concern for stroke and need for further w/up.
 
Past Medical History:
HTN, hyperlipidemia, prediabetes, and factor V Leiden
 
Social History:
___
Family History:
factor V ___
 
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple,  . No nuchal rigidity
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands.

-Cranial Nerves:
II, III, IV, VI:  PERRL 5 to 3mm and brisk, no changes in pupil
sizes in light room or dark room. No ptosis noted. 
Slight L eye esodeviation on primary gaze. On cover-uncover test
L eye moves slightly outwards. On EOM, patient reports 
horizontal
diplopia on L lateral gaze consistently. The double vision
disappears when either eye is closed. When the L eye is closed
the "outside" image goes away. 
 VFF to confrontation. Visual acuity ___ bilaterally.
Fundoscopic exam revealed no papilledema, exudates, or
hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   5    ___   5     5      5   
R  5    ___   5    ___   5     5      5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    1   1
R  1  1    1    1   1
Plantar response was flexor bilaterally.

-Coordination: Bilateral mild intention tremor. Normal 
finger-tap
bilaterally. No dysmetria on FNF 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty
 
Pertinent Results:
___ 05:30AM BLOOD WBC-6.2 RBC-4.37* Hgb-13.5* Hct-40.9 
MCV-94 MCH-30.9 MCHC-33.0 RDW-13.2 RDWSD-45.2 Plt ___
___ 05:30AM BLOOD Neuts-50.1 ___ Monos-9.4 Eos-3.1 
Baso-1.0 Im ___ AbsNeut-3.11 AbsLymp-2.24 AbsMono-0.58 
AbsEos-0.19 AbsBaso-0.06
___ 05:30AM BLOOD ___ PTT-27.9 ___
___ 05:30AM BLOOD Glucose-122* UreaN-14 Creat-0.9 Na-137 
K-4.7 Cl-99 HCO3-29 AnGap-9*
___ 02:24PM BLOOD ALT-24 AST-27 AlkPhos-75 TotBili-0.4
___ 02:24PM BLOOD Lipase-27
___ 05:30AM BLOOD cTropnT-<0.01
___ 05:30AM BLOOD Calcium-9.4 Phos-4.0 Mg-2.1
___ 02:24PM BLOOD %HbA1c-6.4* eAG-137*
___ 02:24PM BLOOD Triglyc-159* HDL-50 CHOL/HD-3.4 
LDLcalc-86
___ 05:30AM BLOOD TSH-2.5
___ 02:24PM BLOOD CRP-1.1
 
Brief Hospital Course:
Mr. ___ is a ___ y/o R-handed man w/ HTN, hyperlipidemia, 
prediabetes, and factor V Leiden; presented for acute painless 
binocular horizontal diplopia.
Presented to ED. Evaluated by Neurology. Found to have signs of 
L CN VI palsy; remainder of exam unremarkable. Admitted due to 
concern for stroke and need for further w/up.

CTA head/neck and MRI brain negative.
Likely CN VI palsy due to acute nerve ischemia, given pt's 
vascular risk factors.

OT evaluated pt and cleared him for D/C.
Pt discharged in stable condition.
 
Medications on Admission:
ALLOPURINOL - Dosage uncertain -  (Prescribed by Other Provider)
ALLOPURINOL - allopurinol ___ mg tablet. TAKE 1 TABLET BY MOUTH
EVERY DAY
BETAMETHASONE, AUGMENTED - betamethasone, augmented 0.05 %
topical ointment. apply to eczema daily with saran wrap
CLOBETASOL - clobetasol 0.05 % scalp solution. Apply to scalp
daily for 2 weeks then 2 times weekly
ERYTHROMYCIN - erythromycin 5 mg/gram (0.5 %) eye ointment. 
apply
gid -  (Not Taking as Prescribed)Entered by MA/Other Staff
FLUOCINOLONE AND SHOWER CAP - fluocinolone 0.01 % scalp oil and
shower cap. Apply to scalp 1 time per week
HYDROCHLOROTHIAZIDE - hydrochlorothiazide 25 mg tablet. ___
tablet(s) by mouth once a day
HYDROCORTISONE - hydrocortisone 2.5 % topical ointment. use for
psoriasis on skin folds (neck, bellybutton, inner elbows and
groin) twice a day
LISINOPRIL - lisinopril 5 mg tablet. TAKE 1 TABLET BY MOUTH 
DAILY
NEOMYCIN-POLYMYXIN-HC - neomycin-polymyxin-hydrocort 3.5
mg/mL-10,000 unit/mL-1 % ear solution. ___ gtts three times a 
day
SIMVASTATIN - simvastatin 40 mg tablet. 1 tablet(s) by mouth
daily at bedtime
SIMVASTATIN - simvastatin 20 mg tablet. TAKE ONE TABLET BY MOUTH
EVERY EVENING
 
Medications - OTC
ASPIRIN - aspirin 81 mg tablet,delayed release. 1 tablet(s) by
mouth once a day -  (Prescribed by Other Provider)
GLUCOSAMINE-CHONDROITIN - Dosage uncertain -  (Prescribed by
Other Provider)
OMEGA 3-DHA-EPA-FISH OIL [FISH OIL] - Dosage uncertain - 
(Prescribed by Other Provider)
 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Lisinopril 5 mg PO DAILY  
4.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
idiopathic L CN VI palsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

  You developed acute-onset double vision and were admitted due 
to concern for stroke. MRI of your brain was normal; it did not 
show any evidence of stroke.
  You have a left cranial nerve 6 palsy that we believe is due 
to lack of blood flow to that nerve. The problems that put you 
at risk for this are high blood pressure, high cholesterol, and 
pre-diabetes mellitus. To better treat these problems, you 
should improve your diet and increase exercise.
  Your double vision will likely get better with time.
  You should follow-up with your primary care physician in 
clinic.

It was a pleasure taking care of you.
 - Your ___ Neurology team
 
Followup Instructions:
___